2197-07-17 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -started vanco, levoquin for PNA. Will discuss adding gentamicin with
   ID
   -spiked this am to 100.9, sent Urine cult (no pyuria on UA)
   - urine legionella sent
   - S&S concerning for aspiration, NG tube palced
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-7-17**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100
   HR: 104 (94 - 116) bpm
   BP: 133/65(80) {106/48(61) - 157/85(104)} mmHg
   RR: 19 (16 - 23) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 51 Inch
             Total In:
                                                                  1,035 mL
                                                                    677 mL
   PO:
             TF:
   IVF:
                                                                  1,035 mL
                                                                    677 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                  1,000 mL
   Urine:
                                                                    940 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     95 mL
                                                                   -323 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   GEN: NAD, cachectic
   HEENT: Dry MM, no JVD or LAD
   CV: RRR, tachycardic. NL S1S2, no S3S4 MRG. Pulses 1+ carotid, radial,
   and DP bilat
   PULM: Poor inspiratory effort. Diffuse upper airway wet ronchi make
   evaluation lung fields difficult
   ABD: BS+, POVH present, NTND no HSM or masses
   LIMBS: Thenar wasting
   NEURO: R facial droop, poor orientation, follows commands, ?weaker R
   than L upper limb. Toes down bilat
   Labs / Radiology
   254 K/uL
   12.7 g/dL
   126 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   12 mg/dL
   101 mEq/L
   137 mEq/L
   37.0 %
   17.8 K/uL
        [image002.jpg]
                             [**2197-7-17**]  03:52 AM
   WBC
   17.8
   Hct
   37.0
   Plt
   254
   Cr
   0.8
   TropT
   0.01
   Glucose
   126
   Other labs: PT / PTT / INR:15.9/31.5/1.4, CK / CKMB /
   Troponin-T:/6/0.01, ALT / AST:140/128, Alk Phos / T Bili:172/0.7,
   Amylase / Lipase:/16, LDH:220 IU/L, Ca++:8.4 mg/dL, Mg++:1.5 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   Assessment and Plan
   A/P: Pt. is a 87 y/o with a history of Dementia, thrombocytosis
   previously on hydroxyurea, TIA, seizure, and gout who presented from
   his nursing home in respiratory distres with acute hypoxia,
   tachycardia, fevers, and leukocytosis.
   #Leukocytosis/Fevers: Likely related to a respiratory infection in the
   setting of possible aspiration event given copious upper airway
   secretions and notable cough, fever, and leukocytosis.  However, given
   recent dental procedure, pt could also have bacteremia despite being
   treated empirically with Pencillin VK since [**7-6**].  CXR with no clear
   evidence of infiltrate, but CTA with L lower lobe consolidation. Pt s/p
   empiric dose of Levaquin, Cefepime, Vanco in the ED.  No evidence of
   hypotension currently to suggest progression to sepsis; lactate 2.7.
   -f/u blood, sputum, and urine cx
   - d/c ceftazidine given PNC allergy and ceftriaxone allergy
   - Given need for GNR coverage, add gentamicin with ID approval
   -  Continue levofloxacin until Legionella ag back
   - Continue vancomycin (now D 2) pending culture results
   -D/C home dose of Penicillin VK
   -follow fever curve, WBC count
   -frequent pulmonary toilet/chest PT
   #Hypoxia: Pt initially 84% on RA at NH and weaned from 100% NRB to 50%
   FM, now on 3L NC with O2 sats in mid 90's. Acute hypoxia likely related
   to aspiration event as above, given negative CTA for PE.  Other
   possibilities include mucous plug given copious secretions and recent
   cough. ABG on 50% FiO2 : 7.44/37/135/26 with widened A-a.
   -Continue supplemental O2 as needed.  At this time on 3L and satting
   well
   -tele for continuous O2 monitoring, though wean off NC as tolerated to
   keep O2>93%
   #Tachycardia: On presentation, pt initially tachy to 120's, which
   improved somewhat with 1L NS.  On exam, mucous membranes dry and
   clinical patient appears somewhat volume down. CTA negative for PE, and
   tachycardia could be related to fevers, leukocytosis and underlying
   infection. EKG consistent with sinus tachycardia.
   -Continue IVF hydration for now and monitor HR on tele
   -Monitor urine output
   -Hold home dose of Lasix
   #Abnormal LFTs: Elevated transaminases, alk phos and LDH on admission
   of unclear etiology given normal [**Name (NI) 4137**] u/s with no evidence of
   cholecystitis. Could possibly be related to underlying infection,
   fever, and SIRS syndrome. AST > ALT, though patient with no known
   history of heaty EtOH use.
   -repeat LFTs qday, improved somewhat this AM
   - GGT only barely elevaeted to 71
   - ? if drug reaction causing LFT elevation
   #Thrombocytosis: Platelet count 310 on admission, consistent with
   previous platelet counts. Etiology likely essential thrombocytosis.
   -Continue home dose of Hydrea
   -Platelet count well controlled, but continue Simvastatin given history
   of possible TIA
   #Dementia: Pt with known dementia, though unclear if this is patient's
   baseline. Patient able to answer simple questions and follow commands.
   -Monitor for ICU delirium/sundowning
   -Avoid benzos if agitated given relative somnolence on admission
   -Consider Zyprexa if hyperactive
   - unclear baseline, therefore getting head CT today without contrast to
   investigate CVA
   #Dizziness and facial asymmetry
   - Concern for CVA given pt report of dizziness plus notable facial
   asymmetry on exam
   - CT head w/o contrast today to check for CVA or other CNS process
   #Gout
   -No inflammated joints on examination
   -Tylenol [**Hospital1 **] around the clock for generalized joint discomfort
   -Continue Allopurinol daily
   #Sz
   Previously diagnosed with possible seizure on previous admission in '[**95**]
   but no longer on trileptal
   -No anticonvulsant therapy for now, continue to monitor
   #Prophylaxis:
   -SQ Heparin
   -Pneumoboots
   -PPI
   -Bowel regimen
   -Calcium + Vitamin D
   #Code:
   FULL CODE
   ICU Care
   Nutrition:  NG feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-7-16**] 09:19 PM
   18 Gauge - [**2197-7-16**] 09:21 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Prevacid
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2197-07-18 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   NG Tube placed
   CT Head [**7-17**]- prelim showed lacunar infarcts, f/u final read
   Added Cefepime, have ID approval
   Initially called out, but ended up staying.  Will plan on transfer to
   floor in morning- team concerned about nursing requirements
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-7-17**] 11:10 AM
   Cefipime - [**2197-7-18**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-7-17**] 11:10 AM
   Heparin Sodium (Prophylaxis) - [**2197-7-18**] 06:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-7-18**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.5
C (99.5
   HR: 103 (93 - 116) bpm
   BP: 130/54(72) {103/45(58) - 167/98(114)} mmHg
   RR: 18 (15 - 34) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52 kg (admission): 52.3 kg
   Height: 51 Inch
             Total In:
                                                                  2,813 mL
                                                                    694 mL
   PO:
             TF:
   IVF:
                                                                  2,633 mL
                                                                    694 mL
   Blood products:
   Total out:
                                                                  2,595 mL
                                                                    440 mL
   Urine:
                                                                  2,595 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    218 mL
                                                                    254 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   267 K/uL
   11.2 g/dL
   97 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.9 mEq/L
   14 mg/dL
   106 mEq/L
   138 mEq/L
   32.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2197-7-17**]  03:52 AM
                             [**2197-7-18**]  03:00 AM
   WBC
   17.8
   11.9
   Hct
   37.0
   32.6
   Plt
   254
   267
   Cr
   0.8
   0.9
   TropT
   0.01
   Glucose
   126
   97
   Other labs: PT / PTT / INR:14.7/37.1/1.3, CK / CKMB /
   Troponin-T:/6/0.01, ALT / AST:79/70, Alk Phos / T Bili:123/0.4, Amylase
   / Lipase:/16, LDH:220 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   A/P: Pt. is a 87 y/o with a history of Dementia, thrombocytosis
   previously on hydroxyurea, TIA, seizure, and gout who presented from
   his nursing home in respiratory distres with acute hypoxia,
   tachycardia, fevers, and leukocytosis.
   #Leukocytosis/Fevers: Likely related to a respiratory infection in the
   setting of possible aspiration event given copious upper airway
   secretions and notable cough, fever, and leukocytosis.  However, given
   recent dental procedure, pt could also have bacteremia despite being
   treated empirically with Pencillin VK since [**7-6**].  CXR with no clear
   evidence of infiltrate, but CTA with L lower lobe consolidation. Pt s/p
   empiric dose of Levaquin, Cefepime, Vanco in the ED.  No evidence of
   hypotension currently to suggest progression to sepsis; lactate 2.7.
   - f/u blood, sputum, and urine cx. All negative so far
   - cefepime D2 and vancomycin D3
   -  Negative for Legionella, therefore D/Ced levofloxacin on [**2197-7-17**]
   -D/C home dose of Penicillin VK
   - Now afebrile (Tmax 100.4) with improving leukocytosis.
   -frequent pulmonary toilet/chest PT
   #Hypoxia: Pt initially 84% on RA at NH and weaned from 100% NRB to 50%
   FM, now on 3L NC with O2 sats in mid 90's. Acute hypoxia likely related
   to aspiration event as above, given negative CTA for PE.  Other
   possibilities include mucous plug given copious secretions and recent
   cough.
   -Continue supplemental O2 as needed.  At this time on 3L and satting
   well
   -tele for continuous O2 monitoring, though wean off NC as tolerated to
   keep O2>93%
   - Overall, resp status improving
   -          Add mucomyst to break up secretions and allow expectoration
   #Tachycardia: On presentation, pt initially tachy to 120's, which
   improved somewhat with 1L NS.  On exam, mucous membranes dry and
   clinical patient appears somewhat volume down. CTA negative for PE, and
   tachycardia could be related to fevers, leukocytosis and underlying
   infection. EKG consistent with sinus tachycardia.
   -Continue IVF hydration for now and monitor HR on tele
   -Monitor urine output
   -Hold home dose of Lasix
   #Abnormal LFTs: Elevated transaminases, alk phos and LDH on admission
   of unclear etiology given normal [**Name (NI) 4137**] u/s with no evidence of
   cholecystitis. Could possibly be related to underlying infection,
   fever, and SIRS syndrome. AST > ALT, though patient with no known
   history of heaty EtOH use. D2 of admission ALT>AST. Now almost WNL
   - repeat LFTs qday, however almost WNL at this point with improving
   clinical status
   - GGT only barely elevaeted to 71 yesterday
   #Thrombocytosis: Platelet count 310 on admission, consistent with
   previous platelet counts. Etiology likely essential thrombocytosis.
   -Continue home dose of Hydrea
   -Platelet count well controlled, but continue Simvastatin given history
   of possible TIA
   #Dementia: Pt with known dementia, though unclear if this is patient's
   baseline. Patient able to answer simple questions and follow commands.
   WNL B12 and folic acid
   -Monitor for ICU delirium/sundowning
   -Avoid benzos if agitated given relative somnolence on admission
   -Consider Zyprexa if hyperactive
   - unclear baseline, therefore getting head CT today without contrast to
   investigate CVA
   - Hypothyroidism may be a complicating factor here, but difficult to
   assess in the context of an acute infeciton. Consider TSH
   #Dizziness and facial asymmetry
   - Concern for CVA given pt report of dizziness plus notable facial
   asymmetry on exam
   - CT head w/o contrast today [**2197-7-17**] showed lacunar infarcts and
   diffuse atrophy without acute events. Consider MRI
   #Gout
   -No inflammated joints on examination
   -Tylenol [**Hospital1 **] around the clock for generalized joint discomfort
   -Continue Allopurinol daily
   #Sz
   Previously diagnosed with possible seizure on previous admission in '[**95**]
   but no longer on trileptal
   -No anticonvulsant therapy for now, continue to monitor
   #Prophylaxis:
   -SQ Heparin
   -Pneumoboots
   -PPI
   -Bowel regimen
   -Calcium + Vitamin D
   #Code:
   FULL CODE
   ICU Care
   Nutrition:  NG feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-7-16**] 09:19 PM
   18 Gauge - [**2197-7-16**] 09:21 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Prevacid
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-7-16**] 09:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-07-19 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2197-7-18**] 06:27 PM
 BLOOD CULTURED - At [**2197-7-18**] 06:27 PM
 SPUTUM CULTURE - At [**2197-7-18**] 08:00 PM
 BLOOD CULTURED - At [**2197-7-18**] 08:15 PM
   from peripheral iv
 FEVER - 101.2
F - [**2197-7-18**] 06:00 PM
   Geriatrics consulted. Felt delirious from multiple causes.
   - Vit D increased to 800units QD.
   - PCP is geriatrician and he will need f/u as o/p with this doctor [**First Name (Titles) **]
[**Female First Name (un) 4242**] service here for continuity of care.
   Spiked temp to 101.2. Pan cultured. U/A clean except RBCs. Final
   cultures pending. Sputum stain positive for two morphologies of GNRs
   K this am 3.6. On KCl SS but supposed to be through CVL. Gave 40mEq PO
   KCl and changed SS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-7-18**] 09:29 AM
   Cefipime - [**2197-7-18**] 11:48 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2197-7-18**] 08:29 AM
   Heparin Sodium (Prophylaxis) - [**2197-7-19**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-7-19**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.6
C (97.9
   HR: 83 (73 - 106) bpm
   BP: 150/72(90) {114/50(66) - 165/80(101)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 52.3 kg
   Height: 65 Inch
             Total In:
                                                                  2,375 mL
                                                                    464 mL
   PO:
             TF:
                                                                     32 mL
                                                                    150 mL
   IVF:
                                                                  1,838 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  1,467 mL
                                                                    400 mL
   Urine:
                                                                  1,467 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    908 mL
                                                                     64 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: 7.39/41/80.[**Numeric Identifier 248**]/23/0
   PaO2 / FiO2: 229
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   297 K/uL
   11.1 g/dL
   105 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.6 mEq/L
   15 mg/dL
   105 mEq/L
   138 mEq/L
   33.6 %
   10.4 K/uL
        [image002.jpg]
                             [**2197-7-17**]  03:52 AM
                             [**2197-7-18**]  03:00 AM
                             [**2197-7-18**]  01:02 PM
                             [**2197-7-19**]  03:30 AM
   WBC
   17.8
   11.9
   10.4
   Hct
   37.0
   32.6
   33.6
   Plt
   [**Telephone/Fax (3) 4243**]
   Cr
   0.8
   0.9
   0.9
   TropT
   0.01
   TCO2
   26
   Glucose
   126
   97
   105
   Other labs: PT / PTT / INR:13.4/50.2/1.1, CK / CKMB /
   Troponin-T:/6/0.01, ALT / AST:55/44, Alk Phos / T Bili:107/0.3, Amylase
   / Lipase:/16, Albumin:3.2 g/dL, LDH:220 IU/L, Ca++:8.3 mg/dL, Mg++:2.1
   mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   A/P: Pt. is a 87 y/o with a history of Dementia, thrombocytosis
   previously on hydroxyurea, TIA, seizure, and gout who presented from
   his nursing home in respiratory distres with acute hypoxia,
   tachycardia, fevers, and leukocytosis.
   #Leukocytosis/Fevers: Likely related to a respiratory infection in the
   setting of possible aspiration event given copious upper airway
   secretions and notable cough, fever, and leukocytosis.  CTA with L
   lower lobe consolidation correlates with CXR. No evidence of
   hypotension currently to suggest progression to sepsis; lactate 2.7.
   -          f/u blood, sputum, and urine cx. All negative so far
   -          cefepime D3 and vancomycin D4 of 10 day course
   -          Negative for Legionella, therefore D/Ced levofloxacin on
   [**2197-7-17**]
   -          Spiked fever O/N to 101.2 with increasing sputum and
   possible color change in sputum
   -          Sputum positive for two morphologies of GNRs
   -          frequent pulmonary toilet/chest PT
   #Hypoxia: Pt initially 84% on RA at NH and weaned from 100% NRB to 50%
   FM, now on 3L NC with O2 sats in mid 90's. Acute hypoxia likely related
   to aspiration event as above, given negative CTA for PE.  Other
   possibilities include mucous plug given copious secretions and recent
   cough or aspiration PNA
   -          Continue supplemental O2 as needed.  At this time on 10L
   mask with good sats
   -          -tele for continuous O2 monitoring
   -          Since volume status better now, hold maintenance fluids to
   dry secretions
   -          ABG with mild hypoxia yesterday and no hypercarbia
   -          Good chest PT and pulmonary toilet with frequent suctioning
   #Tachycardia: On presentation, pt initially tachy to 120's, which
   improved somewhat with 1L NS.  On exam, mucous membranes dry and
   clinical patient appears somewhat volume down. CTA negative for PE, and
   tachycardia could be related to fevers, leukocytosis and underlying
   infection. EKG consistent with sinus tachycardia.
   -          -Continue IVF hydration for now and monitor HR on tele
   -          -Monitor urine output
   -          -Hold home dose of Lasix
   -          Added low dose metroprolol yesterday (12.5mg PO TID)
   #Abnormal LFTs: Elevated transaminases, alk phos and LDH on admission
   of unclear etiology given normal [**Name (NI) 4137**] u/s with no evidence of
   cholecystitis. Could possibly be related to underlying infection,
   fever, and SIRS syndrome. AST > ALT, though patient with no known
   history of heaty EtOH use. D2 of admission ALT>AST. Now almost WNL
   -          repeat LFTs qday, however almost WNL at this point with
   improving clinical status
   #Thrombocytosis: Platelet count 310 on admission, consistent with
   previous platelet counts. Etiology likely essential thrombocytosis.
   -          Continue home dose of Hydrea
   #Dementia: Pt with known dementia, though unclear if this is patient's
   baseline. Patient able to answer simple questions and follow commands.
   WNL B12 and folic acid
   -          -Monitor for ICU delirium/sundowning
   -          -Avoid benzos if agitated given relative somnolence on
   admission
   -          -Using Zyprexa PRN for agitation
   -          unclear baseline. Head CT no acute process.
   -          Hypothyroidism may be a complicating factor here, but
   difficult to assess in the context of an acute infeciton. TSH pending
   -          Give thiamine for poor nutrition
   -          Geriatrics consult recommends increased VitD supplements
   and will follow
   #Dizziness and facial asymmetry
   -          Concern for CVA given pt report of dizziness plus notable
   facial asymmetry on exam
   -          CT head w/o contrast today [**2197-7-17**] showed lacunar infarcts
   and diffuse atrophy without acute events. Consider MRI
   -          Stable now
   #Gout
   -          -No inflammated joints on examination
   -          -Tylenol [**Hospital1 **] around the clock for generalized joint
   discomfort
   -          Hold Allopurinol to avoid constipation
   #Sz
   Previously diagnosed with possible seizure on previous admission in '[**95**]
   but no longer on trileptal
   -          No anticonvulsant therapy for now, continue to monitor
   #Prophylaxis:
   -          SQ Heparin
   -          Pneumoboots
   -          PPI
   -          Bowel regimen
   -          Calcium + Vitamin D
   #Code:
   FULL CODE
   ICU Care
   Nutrition:  NG feeds, nutrition consulting
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-7-16**] 09:21 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Prevacid
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU